US06544985B2
8-Chloro-7-(ethyl-methyl-amino)-4-[3-(5-hydroxymethyl-[1,2,3]triazol-1-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (RS)-[4-chloro-5-(ethyl-methyl-amino)-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester (Example M26) (0.5 g, 0.8 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (60 mg).

reactant | (RS)-[4-chloro-5-(ethyl-methyl-amino)-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester | 0.8 mmol, 0.5 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC)Cl)NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)=O | C31H39ClN6O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-7-(ethyl-methyl-amino)-4-[3-(5-hydroxymethyl-[1,2,3]triazol-1-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2N=NC=C2CO)=O)C1)N(C)CC | C21H21ClN6O2
